US08729068B2
A mixture of 600 mg of methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 390 mg of ethyl 1-aminocyclopropane carboxylate hydrochloride, 0.27 mL of triethylamine, and 6.0 mL of dichloromethane was stirred at room temperature overnight, and then the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-chloroform) to obtain 523 mg of methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate as a pale yellow solid. ESI+: 730

reactant | methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 600 mg | ClS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C32H29ClN2O6S2
reactant | ethyl 1-aminocyclopropane carboxylate hydrochloride | 390 mg | Cl.NC1(CC1)C(=O)OCC
reactant | triethylamine | 0.27 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6.0 mL | ClCCl | CH2Cl2
product | methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl]sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 523 mg | C(C)OC(=O)C1(CC1)NS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C38H39N3O8S2
